US04021542
1-hydrazino-2,3,5-tri-O-benzyl-D-arabinose
To a solution of 3.8 g (119 mmoles) of anhydrous hydrazine in 10 ml of absolute methanol a solution of 5 g (11.9 mmoles) of 2,3,5-tri-O-benzyl-D-arabinose in 10 ml of absolute tetrahydrofuran (THF) is added dropwise while stirring and cooling in an ice bath at a moderate speed. After 10 minutes the ice bath is removed and the solution is stirred for 6 hours at room temperature. Then the solvent is removed with the superfluous hydrazine, and the remaining yellowish oil is dried for removal of the last traces of hydrazine for one day under a continuous oil pump vacuum.

reactant | hydrazine | 119 mmoles, 3.8 g | NN | H4N2
reactant | 2,3,5-tri-O-benzyl-D-arabinose | 11.9 mmoles, 5 g | C(C1=CC=CC=C1)O[C@H](C=O)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C26H28O5
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-hydrazino-2,3,5-tri-O-benzyl-D-arabinose | N(N)C(=O)[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C26H30N2O5
